US09376420B2
A solution of pyruvic acid (412.0 uL, 5.9 mmol) in ethanol (0.6 mL) was added to a 0.5 M sodium hydroxide solution (16.1 mL). The reaction mixture was stirred at room temperature for 10 minutes and then a solution of 6-bromo-3-pyridinecarbaldehyde (1.0 g, 5.4 mmol) in ethanol (5.4 mL) was slowly added thereto at room temperature for 1 hour. The reaction mixture was stirred at room temperature for 18 hours and then filtered. The resulting solid was washed with diethyl ether to give 1.3 g of 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid sodium salt as a pale yellow solid.

reactant | pyruvic acid | 5.9 mmol, 412.0 uL | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | 0.5 M, 16.1 mL | [OH-].[Na+]
reactant | 6-bromo-3-pyridinecarbaldehyde | 5.4 mmol, 1.0 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
solvent | ethanol | 0.6 mL | C(C)O | C2H6O
solvent | ethanol | 5.4 mL | C(C)O | C2H6O
product | 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid sodium salt | 1.3 g | [Na+].BrC1=CC=C(C=N1)C=CC(C(=O)[O-])=O | InChI=1S/C9H6BrNO3.Na/c10-8-4-2-6(5-11-8)1-3-7(12)9(13)14;/h1-5H,(H,13,14);/q;+1/p-1
